US07425634B2
(25a) 1,5-dioxaspiro[5.5]undec-3-ylmethanol
The same procedure as in the step (1a) of Example 1 was repeated using 2-(hydroxymethyl)-1,3-propanediol and cyclohexanone to obtain the title compound (2.26 g, yield: 65%) as a light yellow oil.

reactant | 2-(hydroxymethyl)-1,3-propanediol | OCC(CO)CO | C4H10O3
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 1,5-dioxaspiro[5.5]undec-3-ylmethanol | 2.26 g, yield: 65% | O1CC(COC12CCCCC2)CO | C10H18O3
